US07253192B2
E] [1-(3-Trimethylsilanyl-prop-2-ynyl)-cyclopropyl]-methanol
In analogy to the procedure described in example 24D], reduction of the crude 1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropane carboxylic acid tert-butyl ester with LAH (1 M in THF) gave after naturally warming up to ambient temperature (during 2.75 h) the title compound as yellow oil.

reactant | 1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropane carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CC1)CC#C[Si](C)(C)C | C14H24O2Si
reactant | LAH | 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | [1-(3-Trimethylsilanyl-prop-2-ynyl)-cyclopropyl]-methanol | C[Si](C#CCC1(CC1)CO)(C)C | C10H18OSi
